US05061289
Synthesis of 1-benzyl-3-(β-hydroxyethyl)amino-4nitropyrazol
1 00 g (0.35 mmoles) of N-(1-benzyl-4-nitropyrazolyl) oxazolidine-2-one is heated in 10 ml 5 normal sodium hydroxide solution for 4 hours at 70° C. The solvent is distilled off in the rotary evaporator in vacuum and the residue is separated by means of column chromatography using silica gel with a mixture of chloroform and methanol (10:1).

reactant | N-(1-benzyl-4-nitropyrazolyl) oxazolidine-2-one | 0.35 mmoles | C(C1=CC=CC=C1)N1N=C(C(=C1)[N+](=O)[O-])N1C(OCC1)=O | C13H12N4O4
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-benzyl-3-(β-hydroxyethyl)amino-4nitropyrazol | C(C1=CC=CC=C1)N1N=C(C(=C1)[N+](=O)[O-])NCCO | C12H14N4O3
